US09382222B2
A solution of N-isobutyl-4-piperazin-1-yl-benzenesulfonamide (1.14 g, 3.83 mmol) and Et3N (795 μL, 5.75 mmol) in DCM (25 mL) was treated with acetyl chloride (340 mL, 4.79 mmol) and stirred at room temperature for 30 minutes. The mixture was diluted with DCM, washed with 1 N aqueous HCl, saturated aqueous NaHCO3, water and brine, dried over Na2SO4 and concentrated under vacuum. Purification by silica gel column chromatography (60-75% EtOAc in DCM) gave 4-(4-acetyl-piperazin-1-yl)-N-isobutyl-benzenesulfonamide (1.23 g, 95%) as a white solid. 1H NMR (400 MHz, DMSO) δ 7.58 (d, J=8.8 Hz, 2H), 7.27 (t, J=6.2 Hz, 1H), 7.04 (d, J=8.8 Hz, 2H), 3.62-3.54 (m, 4H), 3.38-3.26 (m, 8H), 2.49-2.43 (m, 2H), 2.04 (s, 3H), 1.65-1.54 (m, 1H), 0.80 (d, J=6.7 Hz, 6H). LCMS (m/z, Method B) ES+ 340.0 [M+1]+.

reactant | N-isobutyl-4-piperazin-1-yl-benzenesulfonamide | 3.83 mmol, 1.14 g | C(C(C)C)NS(=O)(=O)C1=CC=C(C=C1)N1CCNCC1 | C14H23N3O2S
reactant | Et3N | 5.75 mmol, 795 μL | CCN(CC)CC | C6H15N
reactant | acetyl chloride | 4.79 mmol, 340 mL | C(C)(=O)Cl | C2H3ClO
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | 4-(4-acetyl-piperazin-1-yl)-N-isobutyl-benzenesulfonamide | 1.23 g, 95% | C(C)(=O)N1CCN(CC1)C1=CC=C(C=C1)S(=O)(=O)NCC(C)C | C16H25N3O3S
